US06518265B1
tert-Butyl 4-[2-[4-(4-methylpiperazin-1-yl)-2-phenyl-1H-imidazo[4,5-c]-quinolin-1-yl]ethyl]-1-piperidinecarboxylate
A mixture of 0.80 g of tert-butyl 4-[2-(4-chloro-2-phenyl-1H-imidazo-[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate and 1 ml of N-methylpiperazine was stirred at 80° C. for 6 hours. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was dried, and the solvent was evaporated. The residue was purified by alumina column chromatography using ethyl acetate—n-heptane (1:3 to 1:1) as eluting solvents, and washed with a mixture of diisopropyl ether and n-heptane to give 0.74 g of colorless crystals. Recrystallization from ethyl acetate gave colorless needles having the melting point of from 140 to 141° C.

reactant | tert-butyl 4-[2-(4-chloro-2-phenyl-1H-imidazo-[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate | 0.80 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C28H31ClN4O2
reactant | N-methylpiperazine | 1 ml | CN1CCNCC1 | C5H12N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | tert-Butyl 4-[2-[4-(4-methylpiperazin-1-yl)-2-phenyl-1H-imidazo[4,5-c]-quinolin-1-yl]ethyl]-1-piperidinecarboxylate | 0.74 g | CN1CCN(CC1)C1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C33H42N6O2
